### PR TITLE
Definition of `condKL`

### PR DESCRIPTION
**Pull request by LorenzoLuccioli**
In this PR I added all the code I wrote until now, except for the kl_compProd lemma and the auxiliary lemmas

### CODE REVIEW

File: TestingLowerBounds/ForMathlib/RnDeriv.lean [hunk 1]
```diff
@@ -269,6 +269,11 @@ lemma trim_withDensity (hm : m ≤ mα) [SigmaFinite μ] {f : α → ℝ≥0∞}
 
 end Trim
 
+lemma rnDeriv_toReal_ne_zero [SigmaFinite μ] [SigmaFinite ν] (hμν : μ ≪ ν) :
+    ∀ᵐ x ∂μ, (μ.rnDeriv ν x).toReal ≠ 0 := by
```
Comment (RemyDegenne) [inline TestingLowerBounds/ForMathlib/RnDeriv.lean]: You should strengthen this one to a conclusion `0 < ...` instead of `... ≠ 0`

File: TestingLowerBounds/KullbackLeibler.lean [hunk 2]
```diff
@@ -91,8 +91,18 @@ lemma kl_eq_fDiv [SigmaFinite μ] [SigmaFinite ν] :
 lemma kl_self (μ : Measure α) [SigmaFinite μ] : kl μ μ = 0 := by
   rw [kl_eq_fDiv, fDiv_self (by norm_num)]
 
+lemma kl_eq_top_iff [IsFiniteMeasure μ] [SigmaFinite ν] :
+    kl μ ν = ⊤ ↔ μ ≪ ν → ¬ Integrable (llr μ ν) μ := by
+  rw [kl_eq_fDiv, fDiv_mul_log_eq_top_iff]
+
 section kl_nonneg
 
+lemma kl_ne_bot (μ ν : Measure α) : kl μ ν ≠ ⊥ := by
```
Comment (RemyDegenne) [inline TestingLowerBounds/KullbackLeibler.lean:101]: Is the proof shorter if you use `fDiv_ne_bot_of_derivAtTop_nonneg`?

File: TestingLowerBounds/ForMathlib/RnDeriv.lean (hunk 1 above)
Comment (LorenzoLuccioli) [reply TestingLowerBounds/ForMathlib/RnDeriv.lean]: Done

File: TestingLowerBounds/KullbackLeibler.lean (hunk 2 above)
Comment (LorenzoLuccioli) [reply TestingLowerBounds/KullbackLeibler.lean:101]: Yes, if I use that lemma then I can finish the proof in a single line using 

simp only [kl_eq_fDiv, ne_eq, derivAtTop_mul_log, le_top, fDiv_ne_bot_of_derivAtTop_nonneg,
    not_false_eq_true]

But in this case I would have to add the hypothesis that the measures are sigma finite, while the lemma is true in general without them.

Should I keep the current version or modify it to make it shorter?

Comment (LorenzoLuccioli) [reply TestingLowerBounds/KullbackLeibler.lean:101]: Also, should it have the simp attribute?

File: TestingLowerBounds/FDiv/CondFDiv.lean [hunk 3]
```diff
@@ -263,6 +263,20 @@ lemma condFDiv_eq' (hf_ae : ∀ᵐ a ∂μ, fDiv f (κ a) (η a) ≠ ⊤)
     condFDiv f κ η μ = ((μ[fun x ↦ (fDiv f (κ x) (η x)).toReal] : ℝ) : EReal) :=
   if_pos ⟨hf_ae, hf⟩
 
+lemma condFDiv_nonneg [IsMarkovKernel κ] [IsMarkovKernel η]
+    (hf_cvx : ConvexOn ℝ (Set.Ici 0) f) (hf_cont : ContinuousOn f (Set.Ici 0))
+    (hf_one : f 1 = 0) : 0 ≤ condFDiv f κ η μ := by
```
Comment (RemyDegenne) [inline TestingLowerBounds/FDiv/CondFDiv.lean:268]: Is there a blueprint entry for this? If yes, can you link it to this lemma and if not, add one?

File: TestingLowerBounds/KullbackLeibler.lean (hunk 2 above)
Comment (RemyDegenne) [reply TestingLowerBounds/KullbackLeibler.lean:101]: Less assumptions is better. `simp` is a good idea.

File: TestingLowerBounds/KullbackLeibler.lean [hunk 4]
```diff
@@ -154,4 +164,115 @@ lemma kl_nonneg (μ ν : Measure α) [IsProbabilityMeasure μ] [IsProbabilityMea
...
+variable {β : Type*} {mβ : MeasurableSpace β} {κ η : kernel α β} {μ : Measure α}
+
+open Classical in
+
+/--
+Kullback-Leibler divergence between two kernels κ and η conditional to a measure μ.
+It is defined as KL(κ, η | μ) := ∫ x, KL(κ x, η x) dμ.
+-/
+noncomputable
+def condKL (κ η : kernel α β) (μ : Measure α) : EReal :=
```
Comment (RemyDegenne) [inline TestingLowerBounds/KullbackLeibler.lean:179]: Please update the blueprint with a link to this (and same comment with other significant lemmas about condKL).

File: TestingLowerBounds/KullbackLeibler.lean [hunk 5]
```diff
@@ -154,4 +164,115 @@ lemma kl_nonneg (μ ν : Measure α) [IsProbabilityMeasure μ] [IsProbabilityMea
...
+lemma condKL_of_ae_finite_of_integrable (h1 : ∀ᵐ a ∂μ, kl (κ a) (η a) ≠ ⊤)
+    (h2 : Integrable (fun x ↦ (kl (κ x) (η x)).toReal) μ) :
+    condKL κ η μ = (μ[fun x ↦ (kl (κ x) (η x)).toReal] : ℝ) := if_pos ⟨h1, h2⟩
+
+@[simp]
+lemma condKL_of_not_ae_finite (h : ¬ (∀ᵐ x ∂μ, kl (κ x) (η x) ≠ ⊤)) :
+    condKL κ η μ = ⊤ := if_neg (not_and_of_not_left _ h)
+
+@[simp]
+lemma condKL_of_not_ae_integrable (h : ¬ (∀ᵐ (a : α) ∂μ, Integrable (llr (κ a) (η a)) (κ a))) :
```
Comment (RemyDegenne) [inline TestingLowerBounds/KullbackLeibler.lean]:
```suggestion
lemma condKL_of_not_ae_integrable (h : ¬ ∀ᵐ a ∂μ, Integrable (llr (κ a) (η a)) (κ a)) :
```
I guess removing the parentheses works?

File: TestingLowerBounds/KullbackLeibler.lean [hunk 6]
```diff
@@ -154,4 +164,115 @@ lemma kl_nonneg (μ ν : Measure α) [IsProbabilityMeasure μ] [IsProbabilityMea
...
+    condKL κ η μ = ⊤ := by
+  apply condKL_of_not_ae_finite
+  contrapose! h
+  filter_upwards [h] with x hx
+  contrapose! hx
+  simp only [hx, ne_eq, not_false_eq_true, kl_of_not_integrable]
+
+@[simp]
+lemma condKL_of_not_ae_ac (h : ¬ (∀ᵐ x ∂μ, (κ x) ≪ (η x))) :
```
Comment (RemyDegenne) [inline TestingLowerBounds/KullbackLeibler.lean]:
```suggestion
lemma condKL_of_not_ae_ac (h : ¬ ∀ᵐ x ∂μ, κ x ≪ η x) :
```

File: TestingLowerBounds/KullbackLeibler.lean [hunk 7]
```diff
@@ -154,4 +164,115 @@ lemma kl_nonneg (μ ν : Measure α) [IsProbabilityMeasure μ] [IsProbabilityMea
...
+    filter_upwards [h1, h2] with x hx1 hx2
+    rw [kl_of_ac_of_integrable hx1 (of_not_not (kl_of_not_integrable.mt hx2))]
+    simp only [EReal.toReal_coe]
+  refine Integrable.congr ?_ hh.symm
+  exact of_not_not (condKL_of_not_integrable.mt h)
+
+lemma condKL_eq_condFDiv [IsFiniteKernel κ] [IsFiniteKernel η] :
+    condKL κ η μ = condFDiv (fun x ↦ x * log x) κ η μ := by
+  by_cases h1 : ∀ᵐ a ∂μ, kl (κ a) (η a) ≠ ⊤
+  swap;
```
Comment (RemyDegenne) [inline TestingLowerBounds/KullbackLeibler.lean]: `;` is only useful if you have several tactics on the same line.
```suggestion
  swap
```

File: TestingLowerBounds/KullbackLeibler.lean [hunk 8]
```diff
@@ -154,4 +164,115 @@ lemma kl_nonneg (μ ν : Measure α) [IsProbabilityMeasure μ] [IsProbabilityMea
...
+  · simp [h1]
+    refine (condFDiv_of_not_ae_finite ?_).symm
+    convert h1 using 4 with x
+    rw [kl_eq_fDiv]
+  by_cases h2 : Integrable (fun x ↦ (kl (κ x) (η x)).toReal) μ
+  swap;
```
Comment (RemyDegenne) [inline TestingLowerBounds/KullbackLeibler.lean]:
```suggestion
  swap
```

File: TestingLowerBounds/KullbackLeibler.lean [hunk 9]
```diff
@@ -154,4 +164,115 @@ lemma kl_nonneg (μ ν : Measure α) [IsProbabilityMeasure μ] [IsProbabilityMea
 
 end kl_nonneg
 
+section Conditional
+
+variable {β : Type*} {mβ : MeasurableSpace β} {κ η : kernel α β} {μ : Measure α}
+
+open Classical in
+
```
Comment (RemyDegenne) [inline TestingLowerBounds/KullbackLeibler.lean:173]:
```suggestion
```

File: TestingLowerBounds/KullbackLeibler.lean [hunk 10]
```diff
@@ -154,4 +165,115 @@ lemma kl_nonneg (μ ν : Measure α) [IsProbabilityMeasure μ] [IsProbabilityMea
...
+It is defined as KL(κ, η | μ) := ∫ x, KL(κ x, η x) dμ.
+-/
+noncomputable
+def condKL (κ η : kernel α β) (μ : Measure α) : EReal :=
+  if (∀ᵐ a ∂μ, kl (κ a) (η a) ≠ ⊤)
+    ∧ (Integrable (fun x ↦ (kl (κ x) (η x)).toReal) μ)
+  then ((μ[fun x ↦ (kl (κ x) (η x)).toReal] : ℝ) : EReal)
+  else ⊤
+
+lemma condKL_of_ae_finite_of_integrable (h1 : ∀ᵐ a ∂μ, kl (κ a) (η a) ≠ ⊤)
```
Comment (RemyDegenne) [inline TestingLowerBounds/KullbackLeibler.lean]:
```suggestion
lemma condKL_of_ae_ne_top_of_integrable (h1 : ∀ᵐ a ∂μ, kl (κ a) (η a) ≠ ⊤)
```

File: TestingLowerBounds/KullbackLeibler.lean [hunk 11]
```diff
@@ -154,4 +165,115 @@ lemma kl_nonneg (μ ν : Measure α) [IsProbabilityMeasure μ] [IsProbabilityMea
...
+    (h2 : Integrable (fun x ↦ (kl (κ x) (η x)).toReal) μ) :
+    condKL κ η μ = (μ[fun x ↦ (kl (κ x) (η x)).toReal] : ℝ) := if_pos ⟨h1, h2⟩
+
+@[simp]
+lemma condKL_of_not_ae_finite (h : ¬ (∀ᵐ x ∂μ, kl (κ x) (η x) ≠ ⊤)) :
```
Comment (RemyDegenne) [inline TestingLowerBounds/KullbackLeibler.lean]:
```suggestion
lemma condKL_of_not_ae_ne_top (h : ¬ (∀ᵐ x ∂μ, kl (κ x) (η x) ≠ ⊤)) :
```

File: blueprint/src/sections/f_divergence.tex [hunk 12]
```diff
@@ -353,6 +353,19 @@ \section{Conditional f-divergence}
   if $x \mapsto D_f(\kappa(x), \eta(x))$ is $\mu$-integrable and $+\infty$ otherwise.
 \end{definition}
 
+\begin{lemma}
+  \label{lem:condFDiv_nonneg}
+  \lean{ProbabilityTheory.condFDiv_nonneg}
+  \leanok
+  \uses{def:condFDiv}
+  Let $f : \mathbb{R} \to \mathbb{R}$ be continuous in $0$, $\mu$ a measure on $\mathcal X$ and $\kappa, \eta : \mathcal X \rightsquigarrow \mathcal Y$ two Markov kernels. If $f(1) = 0$ then $D_f(\kappa, \eta \mid \mu) \ge 0$.
```
Comment (RemyDegenne) [inline blueprint/src/sections/f_divergence.tex]: For now I have omitted the properties of `f` from the lemmas (they are written at the beginning of the chapter IIRC).
```suggestion
  Let $\mu$ be a measure on $\mathcal X$ and $\kappa, \eta : \mathcal X \rightsquigarrow \mathcal Y$ two Markov kernels. If $f(1) = 0$ then $D_f(\kappa, \eta \mid \mu) \ge 0$.
```

File: blueprint/src/sections/f_divergence.tex [hunk 13]
```diff
@@ -353,6 +353,19 @@ \section{Conditional f-divergence}
...
+\end{lemma}
+
+\begin{proof}\leanok
+\uses{lem:le_fDiv}
+Apply Lemma~\ref{lem:fDiv_nonneg}.
```
Comment (RemyDegenne) [inline blueprint/src/sections/f_divergence.tex]: The lemma in the `uses` and the lemma used in the proof don't match.

**Review by RemyDegenne — APPROVED** [review]
It looks good. I have a few last comments, but it's almost ready to be merged.
